US06362177B1
A solution of nipecotamide (6.40 g, 50 mmol) in CH3CN (150 mL) and ethanol (20 mL) was treated with Et3N (7.0 mL, 50 mmol) and 4-chlorobenzyl chloride (8.05 g, 50 mmol). The reaction mixture was stirred at 50° C. for 16 h. After cooling to room temperature, saturated aqueous NaHCO3 (50 mL) and water (150 mL) was added to the reaction mixture. The mixture was extracted with ethyl acetate (150 mL×3) and the combined organic layers were washed with brine, dried (Na2SO4) and concentrated to give a pale red solid. The crude solid was washed with ether (100 mL) to afford 3-carbamoyl-1-(4-chlorobenzyl)piperidine (6.98 g, 54%).

reactant | nipecotamide | 50 mmol, 6.40 g | N1CC(C(=O)N)CCC1 | C6H12N2O
reactant | Et3N | 50 mmol, 7.0 mL | CCN(CC)CC | C6H15N
reactant | 4-chlorobenzyl chloride | 50 mmol, 8.05 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 150 mL | CC#N | C2H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 150 mL | O | H2O
product | 3-carbamoyl-1-(4-chlorobenzyl)piperidine | 6.98 g, 54% | C(N)(=O)C1CN(CCC1)CC1=CC=C(C=C1)Cl | C13H17ClN2O
